US20010047031A1
(RS)-4-{1-[2-(1,3-Dihydro-isoindol-2-yl)-ethyl]-pyrrolidine-3-sulfonyl)-phenol hydrochloride
The title compound, MS: m/e=373.3 (M+H+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and 2-(2-chloro-ethyl)-2,3-dihydro-1H-isoindole. 2-(2-Chloro-ethyl)-2,3-dihydro-1H-isoindole is a known compound and has been prepared as described in the following reference: G. Shoeb; J. Pharm. Sci.; 51; 1962; 469-471.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | 2-(2-chloro-ethyl)-2,3-dihydro-1H-isoindole | ClCCN1CC2=CC=CC=C2C1 | C10H12ClN
product | (RS)-4-{1-[2-(1,3-Dihydro-isoindol-2-yl)-ethyl]-pyrrolidine-3-sulfonyl)-phenol hydrochloride | Cl.C1N(CC2=CC=CC=C12)CCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | InChI=1S/C20H24N2O3S.ClH/c23-18-5-7-19(8-6-18)26(24,25)20-9-10-21(15-20)11-12-22-13-16-3-1-2-4-17(16)14-22;/h1-8,20,23H,9-15H2;1H
